US08492582B2
Under ice-cooling, pyridine (0.5 mL) and methanesulfonyl chloride (9.9 μL) were sequentially added to a methylene chloride (1 mL) suspension of 2-(2-hydroxy-5-(piperidin-4-yloxy)benzamido)-4-phenylbenzoic acid hydrochloride (0.030 g), followed by stirring at room temperature for 5 hours and 30 minutes. The solvent was evaporated under reduced pressure, and methanol (0.5 mL) and a 2 mol/L aqueous solution of sodium hydroxide (0.5 mL) were added to the residue, followed by stirring at 70° C. for 45 minutes. The reaction mixture was cooled to room temperature, and then 1 mol/L hydrochloric acid (5 mL) was added thereto. The solid substance was collected by filtration and the obtained solid substance was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: chloroform] to obtain 8.0 mg of 2-(2-hydroxy-5-(1-(methylsulfonyl)piperidin-4-yloxy)benzamido)-4-phenylbenzoic acid as a white solid.

reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 9.9 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(2-hydroxy-5-(piperidin-4-yloxy)benzamido)-4-phenylbenzoic acid hydrochloride | 0.030 g | Cl.OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCNCC1
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-5-(1-(methylsulfonyl)piperidin-4-yloxy)benzamido)-4-phenylbenzoic acid | 8.0 mg | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCN(CC1)S(=O)(=O)C | C26H26N2O7S
